US07732435B2
7-Benzyloxy-3-(4-chlorophenyl)-8-hydroxy-2-isopropyl-chromen-4-one
To a solution of 7-benzyloxy-3-(4-chlorophenyl)-2-isopropyl-4-oxo-4H-chromene-8-carbaldehyde (8.03 g, 18.6 mmol) in CH2Cl2 (200 ml) is added m-chloroperbenzoic acid (9.24 g, 53.5 mmol). The reaction mixture is stirred at 50° C. for 4 h, washed with saturated NaHCO3 solution, dried (MgSO4) and concentrated in vacuo to give a yellow oil. To a solution of the oil in methanol (350 ml) is added aqueous KOH solution (10%, 35 ml), and the mixture is stirred at room temperature overnight. The mixture is concentrated to a ca. 50 ml volume, ice/water is added, and the mixture is acidified with concentrated HCl. A solid is isolated by filtration, washed with water and taken up into CH2Cl2. The CH2Cl2 solution is dried (MgSO4), and the solvent is removed in vacuo to afford a dark brown solid. This is stirred in hot hexane/ethyl acetate and filtered to afford the title compound as a colourless solid. A further crop of the desired product can be isolated from the filtrate by concentrating the hot solution to a quarter of its original volume and allowing it to stand at room temperature.

reactant | 7-benzyloxy-3-(4-chlorophenyl)-2-isopropyl-4-oxo-4H-chromene-8-carbaldehyde | 18.6 mmol, 8.03 g | C(C1=CC=CC=C1)OC1=CC=C2C(C(=C(OC2=C1C=O)C(C)C)C1=CC=C(C=C1)Cl)=O | C26H21ClO4
reactant | m-chloroperbenzoic acid | 53.5 mmol, 9.24 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | KOH | 35 ml | [OH-].[K+]
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 350 ml | CO | CH4O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 7-Benzyloxy-3-(4-chlorophenyl)-8-hydroxy-2-isopropyl-chromen-4-one | C(C1=CC=CC=C1)OC1=CC=C2C(C(=C(OC2=C1O)C(C)C)C1=CC=C(C=C1)Cl)=O | C25H21ClO4
